US08030438B2
(25) Synthesis of 3′,4″-bis(dibutoxyphosphoryl)-5″-(tributylstannyl)-[2,2′;5′,2″]-terthiophene
At room temperature, 0.1285 g (0.44 mmols) of 2-iodothiophene and 0.0092 g (0.008 mmols) of commercially available tetrakistriphenylphosphine palladium were dissolved in toluene, to which 0.1961 g (0.200 mmols) of 4,4′-bis(dibutoxyphosphoryl)-5,5′-bis(tributylstannyl)-[2,2′]-bithiophene was added at room temperature. Thereafter, the reaction mixture was heated and stirred under reflux for 2 hours. After the reaction, the reaction mixture was cooled down to room temperature, to which a potassium fluoride aqueous solution was added, followed by stirring for 1 hour. Thereafter, the solid was removed by celite filtration and the filtrate was extracted with ethyl acetate. The organic phase was washed with a saturated saline solution and dried over anhydrous sodium sulfate. The solvent was removed by distilling off under reduced pressure, and the resulting crude product was purified with a silica gel column to obtain the specified substance in the form of a red solid at a yield of 0.0634 g (yield: 53%). The thus obtained substance was used as it is for reaction in Example 12(26).

reactant | 2-iodothiophene | 0.44 mmols, 0.1285 g | IC=1SC=CC1 | C4H3IS
reactant | 4,4′-bis(dibutoxyphosphoryl)-5,5′-bis(tributylstannyl)-[2,2′]-bithiophene | 0.200 mmols, 0.1961 g | C(CCC)OP(=O)(OCCCC)C=1C=C(SC1[Sn](CCCC)(CCCC)CCCC)C=1SC(=C(C1)P(=O)(OCCCC)OCCCC)[Sn](CCCC)(CCCC)CCCC
reactant | potassium fluoride | [F-].[K+]
reactant | toluene | C1(=CC=CC=C1)C | C7H8
product | 3′,4″-bis(dibutoxyphosphoryl)-5″-(tributylstannyl)-[2,2′;5′,2″]-terthiophene | yield: 53% | C(CCC)OP(=O)(OCCCC)C1=C(SC(=C1)C=1SC(=C(C1)P(=O)(OCCCC)OCCCC)[Sn](CCCC)(CCCC)CCCC)C=1SC=CC1 | InChI=1S/C28H41O6P2S3.3C4H9.Sn/c1-5-9-15-31-35(29,32-16-10-6-2)23-20-26(38-22-23)27-21-24(28(39-27)25-14-13-19-37-25)36(30,33-17-11-7-3)34-18-12-8-4;3*1-3-4-2;/h13-14,19-21H,5-12,15-18H2,1-4H3;3*1,3-4H2,2H3;
